US08008321B2
(Imidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone
11.5 g (0.053 mol) of 3-methoxy-4-nitrobenzoyl chloride and 7.8 ml (0.056 mol) of triethylamine are added to 3 g (0.025 mol) of imidazo[1,5-a]pyridine [described in J. Chem. Soc., (1955), 2834-2836] dissolved in 100 ml of 1,2-dichloroethane. The mixture is stirred at ambient temperature for 2 hours. The reaction medium is concentrated under reduced pressure and the residue is then taken up in dichloromethane and a saturated aqueous sodium bicarbonate solution. The organic phase is separated by settling, washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The residue is taken up in dichloromethane and purified by filtration through a bed of silica gel. After evaporation, 7.1 g of a yellow solid are collected. Melting point: 183° C.; 1H NMR (d6-DMSO): 4.01 (3H, s), 7.35-7.40 (1H, m), 7.47-7.54 (1H, m), 7.97 (1H, s), 8.06-8.11 (3H, m), 8.15 (1H, s), 9.77 (1H, d).

reactant | 3-methoxy-4-nitrobenzoyl chloride | 0.053 mol, 11.5 g | COC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C8H6ClNO4
reactant | triethylamine | 0.056 mol, 7.8 ml | C(C)N(CC)CC | C6H15N
reactant | imidazo[1,5-a]pyridine | 0.025 mol, 3 g | C=1N=CN2C1C=CC=C2 | C7H6N2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | (Imidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone | C=1N=C(N2C1C=CC=C2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC | C15H11N3O4
